US08314117B2
tert-butyl (5S,6S,9R)-6-(2,3-difluorophenyl)-9-(triisopropylsilyloxy)-6,7,8,9-tetrahydro-5H-cyclohepta[b]pyridin-5-ylcarbamate.
A mixture of (5S,6S,9R)-6-(2,3-difluorophenyl)-9-(triisopropylsilyloxy)-6,7,8,9-tetrahydro-5H-cyclohepta[b]pyridin-5-amine (660 mg, 1.478 mmol) and di-t-butyl dicarbonate (410 mg, 1.879 mmol) in tetrahydrofuran (10 mL) was stirred at room temperature overnight. Propylamine was added, and volatile components were removed in vacuo. The residue was purified with flash column chromatography to afford the desired product (604 mg, 75%) as colorless sticky syrup: MS(ESI)[M+H+]=547.4.

reactant | (5S,6S,9R)-6-(2,3-difluorophenyl)-9-(triisopropylsilyloxy)-6,7,8,9-tetrahydro-5H-cyclohepta[b]pyridin-5-amine | 1.478 mmol, 660 mg | FC1=C(C=CC=C1F)[C@H]1[C@@H](C=2C(=NC=CC2)[C@@H](CC1)O[Si](C(C)C)(C(C)C)C(C)C)N | C25H36F2N2OSi
reactant | di-t-butyl dicarbonate | 1.879 mmol, 410 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | Propylamine | C(CC)N | C3H9N
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | tert-butyl (5S,6S,9R)-6-(2,3-difluorophenyl)-9-(triisopropylsilyloxy)-6,7,8,9-tetrahydro-5H-cyclohepta[b]pyridin-5-ylcarbamate | 604 mg, 75% | FC1=C(C=CC=C1F)[C@H]1[C@@H](C=2C(=NC=CC2)[C@@H](CC1)O[Si](C(C)C)(C(C)C)C(C)C)NC(OC(C)(C)C)=O | C30H44F2N2O3Si
